US04550107
4,9-Dihydro-4-[[2-[(dimethylamino)methyl]-1-piperidinyl]-acetyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
The title compound is prepared analogously to Example 2 from 4-(chloroacetyl)-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 2-[(dimethylamino)methyl]piperidine to give colorless crystals, Mp. 208°-209° C. (acetonitrile/activated charcoal).

reactant | 4-(chloroacetyl)-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClCC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C13H9ClN2O2S
reactant | 2-[(dimethylamino)methyl]piperidine | CN(C)CC1NCCCC1 | C8H18N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 4,9-Dihydro-4-[[2-[(dimethylamino)methyl]-1-piperidinyl]-acetyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CN(C)CC1N(CCCC1)CC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C21H26N4O2S
